US06936602B1
In toluene/ethanol/water (=10/1/1, 20.4 ml) was dissolved methyl 7-bromo-1-isopropyl-2,3-dihydro-1-benzazepine-4-carboxylate (0.50 g). To the solution were added 4-(2-butoxyethoxy)phenyl borate (0.48 g) and potassium carbonate (0.47 g), and the mixture was stirred for 30 minutes under argon atmosphere. To the mixture was added tetrakistriphenylphosphinepalladium (0.10 g), and the mixture was heated to reflux for 14 hours. After cooled to room temperature, the reaction solution was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=20/1→8/1) to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-isopropyl-2,3-dihydro-1-benzazepine-4-carboxylate (0.44 g). Methyl 7-[4-(2-butoxyethoxy)phenyl]-1-isopropyl-2,3-dihydro-1-benzazepine-4-carboxylate (0.44 g) was dissolved in THF (8.8 ml)/methanol (8.8 ml). To the solution was added 1N sodium hydroxide (4.4 ml), and the mixture was stirred at 50° C. for 4 hours. After cooled to room temperature, pH was adjusted to approximate. 5 with 1N hydrochloric acid, and the solvent was concentrated to half under reduced pressure. The concentrated material was extracted with ethyl acetate/THF, and the extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was washed with hexane/ethyl acetate (12/1) to give 7-[4-(2-butoxyethoxy)phenyl]-1-isopropyl-2,3-dihydro-1-benzazepine-4-carboxylic acid (320 mg).

reactant | methyl 7-bromo-1-isopropyl-2,3-dihydro-1-benzazepine-4-carboxylate | 0.50 g | BrC=1C=CC2=C(C=C(CCN2C(C)C)C(=O)OC)C1 | C15H18BrNO2
reactant | 4-(2-butoxyethoxy)phenyl borate | 0.48 g | B(OC1=CC=C(C=C1)OCCOCCCC)([O-])[O-]
reactant | potassium carbonate | 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene ethanol water | 20.4 ml | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakistriphenylphosphinepalladium | 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-isopropyl-2,3-dihydro-1-benzazepine-4-carboxylate | 0.44 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(C)C)C(=O)OC)C1 | C27H35NO4
